US08809368B2
Potassium 3-(trifluoromethyl)phenoxide (7).
A mixture of 1.94 g (12 mmol) of 3-(trifluoromethyl)phenol and 1.344 g (12 mmol) of potassium t-butoxide was stirred under argon for 30 min. A solution was resulted, and the by-product, t-butanol, was removed under vacuum and heat to give a white solid.

reactant | 3-(trifluoromethyl)phenol | 12 mmol, 1.94 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | potassium t-butoxide | 12 mmol, 1.344 g | CC(C)([O-])C.[K+]
product | Potassium 3-(trifluoromethyl)phenoxide | FC(C=1C=C([O-])C=CC1)(F)F.[K+] | InChI=1S/C7H5F3O.K/c8-7(9,10)5-2-1-3-6(11)4-5;/h1-4,11H;/q;+1/p-1
